US07229943B2
Preparation of N-(2,4-dimethoxybenzyl)-N-[(1E)-(1-methyl-4,7-diphenyl-1H-benzimidazol-2-yl)methylene]amine (L8)
A mixture of 0.1 g (0.32 mmol) 1-methyl-4,7-diphenyl-1H-benzimidazole-2-carbaldehyde, 55 mg (0.32 mmol) 2,4-dimethoxybenzylamine and 1 drop glacial acetic acid in 8 ml methanol were stirred for 12 hour at room temperature. The reaction mixture was cooled to −20° C. and filtered while cold. The solid was washed with cold (−20° C.) methanol (2×1 ml) and dried at reduced pressure. Yield—0.12g (81.1%). %). 1H NMR (250 MHz, CDCl3), δ, ppm: 3.76 (s, 3H), 3.80 (s, 6H), 4.81 (s, 2H), 6.46 (m, 2H), 7.14 (d, JHH=8.8 Hz, 1H), 7.25 (d, JHH=7.6 Hz, 1H), 7.46 (m, 9H), 8.02 (d, JHH=7.0 Hz, 2H), 8.61 (s, 1H).

reactant | 1-methyl-4,7-diphenyl-1H-benzimidazole-2-carbaldehyde | 0.32 mmol, 0.1 g | CN1C(=NC2=C1C(=CC=C2C2=CC=CC=C2)C2=CC=CC=C2)C=O | C21H16N2O
reactant | 2,4-dimethoxybenzylamine | 0.32 mmol, 55 mg | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
solvent | methanol | 8 ml | CO | CH4O
product | N-(2,4-dimethoxybenzyl)-N-[(1E)-(1-methyl-4,7-diphenyl-1H-benzimidazol-2-yl)methylene]amine | COC1=C(C/N=C/C2=NC3=C(N2C)C(=CC=C3C3=CC=CC=C3)C3=CC=CC=C3)C=CC(=C1)OC | C30H27N3O2
